US08349849B2
2-amino-2-(7-(heptyloxy)quinolin-3-yl)propanoic acid
A mixture of 5-(7-(heptyloxy)quinolin-3-yl)-5-methylimidazolidine-2,4-dione (1 g, 2.8 mmol), EtOH (2 mL), H2O (4 mL), and NaOH (2.24 g, 56 mmol, 20 eq.) was stirred for 4 day at 110° C. Then, to the reaction mixture was added HCl (40%) to adjust to pH=5 and then the desired compound was generated as yellow solid (740 mg, yield 80%), without further purification for next step. ESI-MS: 331 (M+H)+. 1H NMR (300 MHz, CD3OD) δ: 0.81-0.83 (t, 3H), 1.06-1.09 (t, 3H), 1.18-1.33 (m, 8H), 1.41-1.45 (m, 2H), 1.75-1.78 (m, 2H), 1.96 (s, 3H), 3.48-3.53 (m, 2H), 4.04 (m, 2H), 7.18-7.24 (m, 2H), 7.79-7.81 (d, 1H), 8.39 (s, 1H), 8.89 (s, 1H).

reactant | 5-(7-(heptyloxy)quinolin-3-yl)-5-methylimidazolidine-2,4-dione | 2.8 mmol, 1 g | C(CCCCCC)OC1=CC=C2C=C(C=NC2=C1)C1(C(NC(N1)=O)=O)C | C20H25N3O3
reactant | EtOH | 2 mL | CCO | C2H6O
reactant | NaOH | 56 mmol, 2.24 g, 20 eq. | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | H2O | 4 mL | O | H2O
product | 2-amino-2-(7-(heptyloxy)quinolin-3-yl)propanoic acid | NC(C(=O)O)(C)C=1C=NC2=CC(=CC=C2C1)OCCCCCCC | C19H26N2O3
